US06887896B1
(2E,4E,6E)-7-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoic acid (Compound A-170)
As described in General Procedure J-1, ethyl (2E,4E,6E)-7-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate (Compound A-159, 930 mg, 1.74 mmol) in ethanol was treated with a solution of 1 N NaOH to produce the title compound after purification by recrystallization from acetonitrile.

reactant | ethyl (2E,4E,6E)-7-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoate | 1.74 mmol, 930 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/CC)OCC | C29H38BrFO3
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (2E,4E,6E)-7-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-nona-2,4,6-trienoic acid | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C=C\C(=C\C(=O)O)\C)/F)/CC)OCC | C27H34BrFO3
